US05254581
Sodium hydride (60% w/w dispersion in mineral oil, 9.17 g) was added portionwise to a solution of ethyl 3,5-difluorophenylacetate (17 S) in THF (400 ml) and the mixture was stirred at ambient temperature for 1 hour. A solution of 1,5-diiodo-2-methyl-3-oxapentane (30.3 g) in THF (20 ml) was added dropwise and the mixture was stirred at ambient temperature for 2 hours. The mixture was filtered and the filtrate was evaporated. The residue was purified by column chromatography using a 19:1 v/v mixture of petroleum ether (b.p. 40°-60° C.) and ethyl acetate as eluent. There was thus obtained, as a mixture of diastereoisomers, 4-ethoxycarbonyl-4-(3,5-difluorophenyl)-2-methyltetrahydropyran (16.5 g). The mixture of diastereoisomers was separated by further chromatography using a 10:1 v/v mixture of petroleum ether (b.p 40°-60° C.) and ethyl acetate as eluent. There was thus obtained:

reactant | Sodium hydride | 9.17 g | [H-].[Na+]
reactant | ethyl 3,5-difluorophenylacetate | FC=1C=C(C=C(C1)F)CC(=O)OCC | C10H10F2O2
reactant | 1,5-diiodo-2-methyl-3-oxapentane | 30.3 g | ICC(OCCI)C | C5H10I2O
solvent | THF | 400 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 4-ethoxycarbonyl-4-(3,5-difluorophenyl)-2-methyltetrahydropyran | 16.5 g | C(C)OC(=O)C1(CC(OCC1)C)C1=CC(=CC(=C1)F)F | C15H18F2O3
